US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid
To a solution of methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate (705 mg, 1.514 mmol) in MeOH (4.5 mL) and H2O (2.250 mL) was added LiOH (181 mg, 7.57 mmol). This mixture was heated in a microwave at 80° C. for 30 min. The reaction mixture was concentrated, acidified with HCl to ph ˜5, filtered, and washed with MeOH/H2O (20%) to afford 0.5813 g (85%) of the title compound. LC-MS m/z 452 (M+H)+.

reactant | methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 1.514 mmol, 705 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=CC2)CC | C25H31N5O4
reactant | LiOH | 7.57 mmol, 181 mg | [Li+].[OH-]
solvent | MeOH | 4.5 mL | CO | CH4O
solvent | H2O | 2.250 mL | O | H2O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid | 0.5813 g, 85% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
